US06342502B1
3-Methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-5-[(4-nitrophenyl)thio]thieno[2,3-d]pyrimidine-2,4-(1H, 3H)-dione
A solution of lithium diisopropylamide (2.6 mmol) in anhydrous tetrahydrofuran (7.5 ml) was added dropwise to a solution of 3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione (1.00 g) in anhydrous tetrahydrofuran (20 ml) at −78° C. under nitrogen. After 15 minutes, bis(4-nitrophenyl) disulfide (0.90 g) was added and the mixture was warmed to room temperature for 16 hours. Saturated sodium to hydrogen carbonate solution (100 ml) was added and the mixture was extracted with ether (2×100 ml). The organic extracts were dried over anhydrous magnesium sulfate, filtered through a silica pad and evaporated under reduced pressure to give the crude product (1.4 g). A portion of this material (0.14 g) was purified by preparative normal-phase HPLC with dichloromethane:ethanol gradient elution and then recrystallised from ethyl acetate isohexane to give the title compound (28 mg).

reactant | lithium diisopropylamide | 2.6 mmol | C(C)(C)[N-]C(C)C.[Li+]
reactant | 3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 1.00 g | CN1C(N(C2=C(C1=O)C=C(S2)CC2=CC=CC1=CC=CC=C21)CC(C)C)=O | C22H22N2O2S
reactant | bis(4-nitrophenyl) disulfide | 0.90 g | [N+](=O)([O-])C1=CC=C(C=C1)SSC1=CC=C(C=C1)[N+](=O)[O-] | C12H8N2O4S2
reactant | sodium | [Na] | Na
reactant | hydrogen carbonate | 100 ml | C(O)([O-])=O
solvent | tetrahydrofuran | 7.5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-Methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-5-[(4-nitrophenyl)thio]thieno[2,3-d]pyrimidine-2,4-(1H, 3H)-dione | 28 mg | CN1C(N(C2=C(C1=O)C(=C(S2)CC2=CC=CC1=CC=CC=C21)SC2=CC=C(C=C2)[N+](=O)[O-])CC(C)C)=O | C28H25N3O4S2
